US05843973
Trans-4-benzyloxymethyl-1-(1-methanesulfonyloxyethyl)cyclohexane
In 50 ml of anhydrous dichloromethane were dissolved 1.50 g of trans-4-benzyloxymethyl-1-(1-hydroxyethyl)cyclohexane and 1.68 ml of triethylamine, and 1.58 g of methanesulfonic acid anhydride was added thereto with stirring under ice-cooling, and the mixture was stirred at room temperature for 1 hour and 25 minutes. The solvent was distilled off under reduced pressure and 150 ml of ethyl acetate was added to the residue. The mixture was washed successively with an aqueous sodium chloride solution, 10% aqueous hydrochloric acid solution, an aqueous sodium chloride solution, an aqueous sodium bicarbonate solution and an aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography employing dichloromethane as an eluent to obtain 1.71 g of the desired compound as a pale yellow oil.

reactant | trans-4-benzyloxymethyl-1-(1-hydroxyethyl)cyclohexane | 1.50 g | C(C1=CC=CC=C1)OC[C@@H]1CC[C@H](CC1)C(C)O | C16H24O2
reactant | triethylamine | 1.68 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid anhydride | 1.58 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Trans-4-benzyloxymethyl-1-(1-methanesulfonyloxyethyl)cyclohexane | 1.71 g | C(C1=CC=CC=C1)OC[C@@H]1CC[C@H](CC1)C(C)OS(=O)(=O)C | C17H26O4S
